US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-difluorophenyl)isoxazole
5-(2,4-difluorophenyl)-3-hydroxyisoxazole (0.3 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.27 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.44 g, 85%) as a colorless powder.

reactant | 5-(2,4-difluorophenyl)-3-hydroxyisoxazole | 0.3 g | FC1=C(C=CC(=C1)F)C1=CC(=NO1)O | C9H5F2NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.27 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-difluorophenyl)isoxazole | 0.44 g, 85% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=C(C=C(C=C1)F)F | C16H18F2N2O4
